US08859549B2
4-(thiophen-2-yl)phthalazin-1(2H)-one
A mixture of methyl 2-(thiophene-2-carbonyl)benzoate (0.445 g, 1.81 mmol) and hydrazine hydrate (0.40 mL, 7.1 mmol) in ethanol (6 mL) was stirred at 80° C. overnight, concentrated, and azeotroped with toluene to give the title compound, which was used without purification: 1H NMR (300 MHz, DMSO-d6) δ 12.87 (s, 1H), 8.42-8.28 (m, 1H), 8.23-8.09 (m, 1H), 7.95 (dtd, J=19.0, 7.3, 1.5, 2H), 7.82-7.69 (m, 1H), 7.68-7.55 (m, 1H), 7.33-7.19 (m, 1H), 4.12 (s, OH), 1.91 (s, OH), 1.74 (s, 1H).

reactant | methyl 2-(thiophene-2-carbonyl)benzoate | 1.81 mmol, 0.445 g | S1C(=CC=C1)C(=O)C1=C(C(=O)OC)C=CC=C1 | C13H10O3S
reactant | hydrazine hydrate | 7.1 mmol, 0.40 mL | O.NN
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4-(thiophen-2-yl)phthalazin-1(2H)-one | S1C(=CC=C1)C1=NNC(C2=CC=CC=C12)=O | C12H8N2OS
